US08754073B2
57.2 tert-butyl 4-(3-cyclopropanecarbonyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate
16 l cyclopropylcarboxylic acid are placed in 3 ml dimethylformamide, then 174 l diisopropylethylamine and 93.1 mg O-(7-azabenzotriazol-1-yl-)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) are added. After 15 min 77.5 mg tert-butyl 4-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate are added. The reaction mixture is stirred at ambient temperature until there is no further reaction and the product is purified directly by preparative HPLC (method B). 70 mg of the product are obtained as a solid. Analytical HPLC-MS (method D): RT=1.37 min.

reactant | cyclopropylcarboxylic acid | 16 l | C1(CC1)C(=O)O | C4H6O2
reactant | diisopropylethylamine | 174 l | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl 4-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate | 77.5 mg | C1CNCCC2=C1C=CC(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C | C20H30N2O3
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(3-cyclopropanecarbonyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-piperidine-1-carboxylate | 70 mg | C1(CC1)C(=O)N1CCC2=C(CC1)C=C(C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C | C24H34N2O4
